US08034827B2
e) 4-[4-(4,5-Dihydro-1H-imidazol-2-yl)-benzyl]-piperidine
To a stirred solution of 1-benzyl-4-[4-(4,5-dihydro-1H-imidazol-2-yl)-benzylidene]-piperidine (0.1 g, 0.3 mmol) in ethanol (20 mL), ammoniumformate (0.19 g, 3 mmol) and 10% Pd/C (20 mg) were added ad the mixture was refluxed for 8 hours. The catalyst was filtered off, and the filtrate was concentrated in vacuo. The remaining crude material was purified by column chromatography using basic aluminum oxide (150 mesh, Aldrich) as adsorbent and 10% methanol in chloroform as eluent to yield 68 mg (92%) of the title compound.

reactant | 1-benzyl-4-[4-(4,5-dihydro-1H-imidazol-2-yl)-benzylidene]-piperidine | 0.3 mmol, 0.1 g | C(C1=CC=CC=C1)N1CCC(CC1)=CC1=CC=C(C=C1)C=1NCCN1 | C22H25N3
reactant | ammoniumformate | 3 mmol, 0.19 g | C(=O)[O-].[NH4+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 4-[4-(4,5-Dihydro-1H-imidazol-2-yl)-benzyl]-piperidine | 68 mg, 92% | N1C(=NCC1)C1=CC=C(CC2CCNCC2)C=C1 | C15H21N3
